US06762180B1
(2) 4-(1-benzyl-imidazol-2-yl)-nitrobenzene
Prepared from 4-(imidazol-2-yl)-nitrobenzene and benzyl bromide

reactant | 4-(imidazol-2-yl)-nitrobenzene | N1C(=NC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-(1-benzyl-imidazol-2-yl)-nitrobenzene | C(C1=CC=CC=C1)N1C(=NC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H13N3O2
